US09085555B2
F. Methyl 2-(3-acetyl-5-hydroxy-1H-indazol-1-yl)acetate
To methyl 2-(3-acetyl-5-(benzyloxy)-1H-indazol-1-yl)acetate (3.70 g, 10.9 mmol) in THF (80 mL) was added Pd/C (10%, 400 mg). The reaction mixture was stirred at 50° C. overnight under a H2 atmosphere. The reaction mixture was filtered over a pad of Celite and washed with CH2Cl2, then volatiles were evaporated to give the title compound. MS (LC/MS): 248.9 [M+H]+, 271.0 [M+Na]+; tR (HPLC conditions c): 3.36 min.

reactant | methyl 2-(3-acetyl-5-(benzyloxy)-1H-indazol-1-yl)acetate | 10.9 mmol, 3.70 g | C(C)(=O)C1=NN(C2=CC=C(C=C12)OCC1=CC=CC=C1)CC(=O)OC | C19H18N2O4
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | Methyl 2-(3-acetyl-5-hydroxy-1H-indazol-1-yl)acetate | C(C)(=O)C1=NN(C2=CC=C(C=C12)O)CC(=O)OC | C12H12N2O4
